US07476741B2
At 0° C., tert-butylnitrite (62 μL, 0.52 mmol) was added to 2-amino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-8-oxo-4H-oxazolo[4,5-h]chromene (20 mg, 0.044 mmol) in dry THF (1 mL) and was stirred at this temperature for 2 h. Sodium borohydride (19.8 mg, 0.52 mmol) was added and the reaction was stirred at 0° C. for 3 h. Reaction was quenched with NH4Cl saturated aqueous solution (1 mL) and the mixture was partitioned between water (2 mL) and EtOAc (5 mL). The aqueous layer was extracted with EtOAc (2×5 mL). The organic layers were combined, washed with saturated NaHCO3 (5 mL), brine (5 mL), dried over Na2SO4, filtered and concentrated to a yellow oil. The product was isolated by flash chromatography using a 12S SiO2 system by Biotage, Inc., Charlottesville, Va., using 1 to 2% EtOAc in dichloromethane to yield 10 mg (85%) of 4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-8-oxo-4H-oxazolo[4,5-h]chromene as a light yellow solid. 1H NMR (Acetone-d6) 7.80 (d, J=1.2 Hz, 1H), 7.13-7.11 (m, 2H), 6.99-6.96 (m, 2H), 5.00 (s, 1H), 3.87 (s, 3H), 3.78 (s, 3H), 3.39 (s, 3H).

reactant | tert-butylnitrite | 0.52 mmol, 62 μL | C(C)(C)(C)ON=O | C4H9NO2
reactant | 2-amino-4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-8-oxo-4H-oxazolo[4,5-h]chromene | 0.044 mmol, 20 mg | NC1OC=2C(C(C=C3C=C(C(OC23)=O)C)C2=CC(=C(C(=C2)OC)OC)Br)N1C#N | C20H18BrN3O5
reactant | Sodium borohydride | 0.52 mmol, 19.8 mg | [BH4-].[Na+]
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(3-bromo-4,5-dimethoxyphenyl)-3-cyano-7-methyl-8-oxo-4H-oxazolo[4,5-h]chromene | 10 mg, 85% | BrC=1C=C(C=C(C1OC)OC)C1C=C2C=C(C(OC2=C2C1N(CO2)C#N)=O)C | C20H17BrN2O5
